US07683185B2
6(4-Chloro-phenylsulfanyl)-hexanoic acid methyl ester (28b).
To a solution of 6-bromohexanoic acid methyl ester (2.1 g, 10 mmol), triethylamine (1.6 mL, 11 mmol) and tert-butylammonium iodide (200 mg, 0.54 mmol) in freshly distilled THF (30 mL) was added 4-chlorothiophenol (1.45 g, 10 mmol) under an atmosphere of argon. The mixture was stirred at reflux for 2 hours after which it was concentrated under reduced pressure. The oil was dissolved in ethyl acetate (100 mL) and then washed successively with saturated aqueous sodium hydrogen carbonate (50 mL), distilled water (50 mL) and brine (50 mL). The organic layer was then dried over anhydrous MgSO4, filtered and concentrated under reduced pressure to give an yellow oil that was purified by flash chromatography (1:9 diethyl ether:40-60° C. petroleum ether). The title compound was obtained as a colourless oil (2.5 g, 93%).

reactant | 6-bromohexanoic acid methyl ester | 10 mmol, 2.1 g | COC(CCCCCBr)=O | C7H13BrO2
reactant | triethylamine | 11 mmol, 1.6 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butylammonium iodide | 0.54 mmol, 200 mg | [I-].C(C)(C)(C)[NH3+]
reactant | 4-chlorothiophenol | 10 mmol, 1.45 g | ClC1=CC=C(C=C1)S | C6H5ClS
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 6(4-Chloro-phenylsulfanyl)-hexanoic acid methyl ester | COC(CCCCCSC1=CC=C(C=C1)Cl)=O | C13H17ClO2S
